US07868030B2
i) 2-Methoxy-5-(3-methyl-thiophen-2-yl)-pyridine
The title intermediate, MS: m/e 206.1 (MH+), was prepared analogously to Example 52 from 2-bromo-3-methyl-thiophene and 2-methoxy-5-pyridineboronic acid.

reactant | 2-bromo-3-methyl-thiophene | BrC=1SC=CC1C | C5H5BrS
reactant | 2-methoxy-5-pyridineboronic acid | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
product | 2-Methoxy-5-(3-methyl-thiophen-2-yl)-pyridine | COC1=NC=C(C=C1)C=1SC=CC1C | C11H11NOS
